US06734190B2
Preparation of 2-Chloro-5-hydrazinobenzoic acid Hydrochloride
A solution of 5-amino-2-chlorobenzoic acid (10.3 g, 60 mmol) in concentrated HCl at 0° C. is treated with an aqueous solution of NaNO2 (4.8 g, 70 mmol) at a rate to maintain a reaction temperature of <10° C., stirred for 0.5 h at 0° to 10° C., treated with a solution of tin chloride dihydrate (33.9 g, 150 mmol) in aqueous HCl at a rate to maintain a reaction temperature of <10° C., aqueous HCl is added periodically, as needed to facilitate stirring, stirred at 5° C. for an additional 1 h and filtered. The filtercake is recrystallized from water to afford the title product as white crystals, 9.6 g (71% yield), identified by HNMR analysis.

reactant | 5-amino-2-chlorobenzoic acid | 60 mmol, 10.3 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | NaNO2 | 70 mmol, 4.8 g | N(=O)[O-].[Na+]
reactant | tin chloride dihydrate | 150 mmol, 33.9 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | HCl | Cl | ClH
product | 2-Chloro-5-hydrazinobenzoic acid Hydrochloride | 71% yield | Cl.ClC1=C(C(=O)O)C=C(C=C1)NN | InChI=1S/C7H7ClN2O2.ClH/c8-6-2-1-4(10-9)3-5(6)7(11)12;/h1-3,10H,9H2,(H,11,12);1H
